US07863332B2
100 mg (2.5 mmol, 3.2 eq) of sodium hydroxide are added to a solution of 348 mg (0.78 mmol, 1 eq) of ethyl 3-{3′-[1-methyl-3-(3-phenylpropyl)ureido]biphenyl-4-yl}propanoate in 6 ml of a tetrahydrofuran/methanol mixture (8/2). The reaction mixture is stirred at room temperature for 12 hours. The reaction medium is hydrolyzed with water, acidified with acetic acid solution and extracted with ethyl acetate. The organic phases are combined, washed with sodium chloride solution and dried over sodium sulfate. The solvent is evaporated off and the residual oil is chromatographed on silica (7/3 to 1/1 heptane/ethyl acetate). 180 mg of 3-[3′-(3-heptyl-1-methylureido)-2-methylbiphenyl-4-yl]propanoic acid are obtained in the form of a tacky solid. Yield=55%

reactant | sodium hydroxide | 2.5 mmol, 100 mg, 3.2 eq | [OH-].[Na+]
reactant | ethyl 3-{3′-[1-methyl-3-(3-phenylpropyl)ureido]biphenyl-4-yl}propanoate | 0.78 mmol, 348 mg, 1 eq | CN(C(=O)NCCCC1=CC=CC=C1)C=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)OCC | C28H32N2O3
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran methanol | 6 ml | O1CCCC1.CO
product | 3-[3′-(3-heptyl-1-methylureido)-2-methylbiphenyl-4-yl]propanoic acid | 180 mg, Yield=55% | C(CCCCCC)NC(N(C)C=1C=C(C=CC1)C1=C(C=C(C=C1)CCC(=O)O)C)=O | C25H34N2O3
